US07851473B2
4-[4-(2,3-Difluorophenyl)-1,3-thiazol-2-yl]-N-pyridazin-3-ylpiperazine-1-carboxamide
A mixture of 2,2,2-trichloroethyl pyridazin-3-ylcarbamate (212 mg, 0.782 mmol), 1-[4-(2,3-difluorophenyl)-1,3-thiazol-2-yl]piperazine (200 mg, 0.711 mmol) and diisopropylethylamine (0.248 ml, 1.42 mmol) in dimethyl sulfoxide (2.5 ml) was stirred at 70° C. for 3 days. Water was poured to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed with water, and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate), and recrystallized from a mixed solvent of hexane and tetrahydrofuran to give 101 mg (35.2%) of the desired product as a solid. mp 215-216° C.

reactant | 2,2,2-trichloroethyl pyridazin-3-ylcarbamate | 0.782 mmol, 212 mg | N1=NC(=CC=C1)NC(OCC(Cl)(Cl)Cl)=O | C7H6Cl3N3O2
reactant | 1-[4-(2,3-difluorophenyl)-1,3-thiazol-2-yl]piperazine | 0.711 mmol, 200 mg | FC1=C(C=CC=C1F)C=1N=C(SC1)N1CCNCC1 | C13H13F2N3S
reactant | diisopropylethylamine | 1.42 mmol, 0.248 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | Water | O | H2O
solvent | dimethyl sulfoxide | 2.5 ml | CS(=O)C | C2H6OS
product | 4-[4-(2,3-Difluorophenyl)-1,3-thiazol-2-yl]-N-pyridazin-3-ylpiperazine-1-carboxamide | 101 mg, 35.2% | FC1=C(C=CC=C1F)C=1N=C(SC1)N1CCN(CC1)C(=O)NC=1N=NC=CC1 | C18H16F2N6OS
